US09303033B2
To 5-(3-chloro-4-(3-(dimethylamino)propoxy)phenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (79 mg, 0.184 mmol) in EtOH (3 mL) was added piperidine (22 uL 0.221 mmol) followed by hydantoin (21 mg, 0.202 mmol). The reaction mixture was stirred at 85° C. for 6 h. The solvent was removed by rotary evaporation and the residue was diluted with 3 mL of water. The suspension was sonicated and the resulting solid was filtered off and washed with water followed by a 1:1 mixture of EtOH/water. The material was Dried under vacuum to provide 62 mg of (Z)-5-((5-(3-chloro-4-(3-(dimethylamino)propoxy)phenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione LCMS (ES): m/z 511 [M+1]+.

reactant | 5-(3-chloro-4-(3-(dimethylamino)propoxy)phenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 0.184 mmol, 79 mg | ClC=1C=C(C=CC1OCCCN(C)C)NC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C21H25ClN6O2
reactant | piperidine | 0.221 mmol, 22 uL | N1CCCCC1 | C5H11N
reactant | hydantoin | 0.202 mmol, 21 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
solvent | EtOH | 3 mL | CCO | C2H6O
product | (Z)-5-((5-(3-chloro-4-(3-(dimethylamino)propoxy)phenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 62 mg | ClC=1C=C(C=CC1OCCCN(C)C)NC1=NC=2N(C(=C1)NC1CC1)N=CC2\C=C/2\C(NC(N2)=O)=O | C24H27ClN8O3
